US09421532B2
A 30-mL eggplant flask equipped with a magnetic stirrer was heat dried while pumping to a vacuum of 5 Pa before its interior was purged with nitrogen atmosphere. To the flask, methyl 3-phenylpropionate (167 mg, 1.0 mmol) and 1,1,3,3-tetramethyldisiloxane (336 mg, 2.5 mmol) were added through a syringe, and iron complex A (15 mg, 0.03 mol) was added as catalyst. The solution was stirred at room temperature for 3 hours. At 0° C., THF (1 mL) and tetrabutylammonium fluoride in THF (1 M, 1 mL) were then added to the solution, which was stirred at 0° C. for 1 hour. THF was distilled off in vacuum. The crude product was purified by silica gel-packed column chromatography using hexane/ethyl acetate (5/1) as developing solvent, obtaining 3-phenylpropan-1-ol (131 mg, 0.96 mmol, 96%). The results are shown as Entry 1 in Table 8. The resulting alcohol was identified for geometry by 1H and 13C-NMR spectroscopy.

reactant | methyl 3-phenylpropionate | 1.0 mmol, 167 mg | C1(=CC=CC=C1)CCC(=O)OC | C10H12O2
reactant | 1,1,3,3-tetramethyldisiloxane | 2.5 mmol, 336 mg | C[SiH](O[SiH](C)C)C | C4H14OSi2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 1 M, 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-phenylpropan-1-ol | 0.96 mmol, 131 mg, 96% | C1(=CC=CC=C1)CCCO | C9H12O
